US06093744
Synthesis of [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-amino-2,6-diisopropyl-phenyl ester
22.0 g of [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 2,6-diisopropyl-4-nitro-phenyl ester and 6 g of Raney nickel were mixed in 110 mL tetrahydrofuran under 50 psi of hydrogen. After 21 hours, the reaction was filtered and concentrated to give an orange oil which was dissolved in ethyl acetate, filtered through a pad of silica, and concentrated to give an oily solid. Recrystallization from 53 diethyl ether/hexanes gave 18.60 g (89%) of the title compound as a cream colored solid; mp 153-155° C.

reactant | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 2,6-diisopropyl-4-nitro-phenyl ester | 22.0 g | C(C)(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O | C29H42N2O6S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 6 g | [Ni] | Ni
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-amino-2,6-diisopropyl-phenyl ester | 18.60 g, 89% | NC1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C29H44N2O4S
